US07582781B2
1-Chloro-2-(2,5-difluorophenyl)-3-pivaloyloxybutan-2-ol
A solution of 2,5-difluorophenylmagnesium bromide prepared from 5.79 g (30.0 mmol) of 2,5-difluorobromobenzene and 0.759 g (31.2 mmol) of magnesium by the same method as that in Example 3 was cooled to 0° C., and a solution of 3.10 g (15.0 mmol) of (R)-1-chloro-3-pivaloyloxybutan-2-one in 15 mL of toluene was added dropwise thereto. After the completion of the dropwise addition, stirring was continued for another 1 hour, and 10 mL of a saturated aqueous solution of ammonium chloride was added to stop the reaction. Furthermore, 10 mL of water was added, and extraction was performed with ethyl acetate (20 mL×2). After drying over anhydrous sodium sulfate, concentration was performed under reduced pressure to obtain a crude product. A quantitative analysis was performed by HPLC. Thereby, the title compound was obtained in a yield of 63% ((2S,3R)/(2R,3R)=94/6) (HPLC, column: YMC-A302 manufactured by YMC Co. Ltd., mobile phase: acetonitrile/20 mM (potassium) phosphate buffer solution (pH=2.5)=6/4, flow rate: 1.0 mL/min, column temperature: 30° C., detector: UV 210 nm, retention time: 17.0 minutes (2S,3R), 13 minutes (2R,3R)). 1H-NMR (400 MHz, CDCl3) (2S,3R) δ: 1.07 (d, 3H, J=6.3 Hz), 1.24 (s, 9H), 3.86 (d, 1H, J=11.5 Hz), 4.20 (d, 1H, 11.5 Hz), 5.42 (q, 1H, J=6.3 Hz), 7.00-7.03 (m, 2H), 7.40-7.44 (m, 1H); (2R,3R) δ: 1.03 (s, 9H), 1.58 (d, 3H, J=6.3 Hz), 3.91 (d, 1H, J=11.5 Hz), 4.28 (d, 1H, 11.5 Hz), 5.31 (q, 1H, J=6.3 Hz), 6.99-7.02 (m, 2H), 7.26-7.37 (m, 1H).

reactant | 2,5-difluorophenylmagnesium bromide | FC1=C(C=C(C=C1)F)[Mg]Br
reactant | 2,5-difluorobromobenzene | 30.0 mmol, 5.79 g | FC1=C(C=C(C=C1)F)Br | C6H3BrF2
reactant | magnesium | 31.2 mmol, 0.759 g | [Mg] | Mg
reactant | (R)-1-chloro-3-pivaloyloxybutan-2-one | 15.0 mmol, 3.10 g | ClCC([C@@H](C)OC(C(C)(C)C)=O)=O | C9H15ClO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 20 mM, pH=2.5 | C(C)#N | C2H3N
solvent | water | 10 mL | O | H2O
product | 1-Chloro-2-(2,5-difluorophenyl)-3-pivaloyloxybutan-2-ol | yield of 63% | ClCC(C(C)OC(C(C)(C)C)=O)(O)C1=C(C=CC(=C1)F)F | C15H19ClF2O3
